US04652566
[Preparation of 2-carbamoyl-7-(3-chloro-2-hydroxypropoxy)benzofuran]
There was suspended 2.3 g of 2-carbamoyl-7-(2,3-epoxypropoxy)benzofuran obtained in Reference Example 1 in 70 ml of chloroform, and thereto 15 ml of concentrated hydrochloric acid was added. Thereafter, the mixture was vigorously stirred at room temperature for 15 minutes. After the chloroform layer was washed with water and dried with magnesium sulfate, the solvent was distilled away from the reaction mixture under reduced pressure. The resultant residue was purified by silica-gel chromatography (eluent: 2 % ethanol-chloroform) to give the desired compound.

reactant | 2-carbamoyl-7-(2,3-epoxypropoxy)benzofuran | 2.3 g | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC2CO2 | C12H11NO4
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-carbamoyl-7-(3-chloro-2-hydroxypropoxy)benzofuran | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC(CCl)O | C12H12ClNO4
